US07635741B2
D. Synthesis of 1,3-bis[(4-phenylethynylphenyl)glyoxalyl]benzene
A portion of the 1,3-bis[(4-bromophenyl)glyoxalyl]benzene (8.7 grams, 0.0174 mole, 0.0348 Br-equivalent) from C above, phenylacetylene (4.30 grams, 0.0421 mole), triethylamine (9.61 grams, 0.095 mole), triphenylphosphine (0.23 gram, 0.00088 mole, palladium (II) acetate (0.032 gram, 0.00014 mole) and N,N-dimethylformamide (174 milliliters), were added under a dry nitrogen atmosphere to a predried glass two liter three neck round bottom reactor containing a predried magnetic stirring bar. Both the triethylamine and the N,N-dimethylformamide had been sparged with dry nitrogen prior to use. The reactor was additionally outfitted with fan cooled spiral condenser and a thermometer with thermostatically controlled heating mantle. Stirring and heating commenced, and after 24 minutes, when a temperature of 78° C. was achieved, a clear light amber solution formed. After a cumulative 47 minutes, a temperature of 80° C. was achieved and maintained for the next 19.5 hours. At this time, HPLC analysis indicated that full conversion of the 1,3-bis[(4-bromophenyl)glyoxalyl]benzene reactant had been achieved. The reactor contents were poured over cracked ice contained in a 4 liter beaker. After complete melting of the ice and dilution to 2 liters volume with deionized water, the precipitated product was recovered via filtration through a medium fritted glass funnel. The product cake on the funnel was washed with 200 milliliters of deionized water, then a portion was analyzed by HPLC demonstrating the presence of 91.6 area % of the desired product. After boiling as a slurry in acetonitrile (1.8 liters), then holding for 18 hours at room temperature with stirring, 8.55 grams (90.6% isolated yield) of 1,3-bis[(4-phenylethynylphenyl)glyoxalyl]benzene was recovered as a light yellow powder after filtration on a medium fritted glass funnel followed by drying in the vacuum oven (40° C. and 1 mm Hg). HPLC analysis revealed the presence of the desired product at 100 area %. El MS confirmed the structure of the product.

reactant | 1,3-bis[(4-bromophenyl)glyoxalyl]benzene | 0.0174 mole, 8.7 grams | BrC1=CC=C(C=C1)C(C(=O)C1=CC(=CC=C1)C(C(=O)C1=CC=C(C=C1)Br)=O)=O | C22H12Br2O4
reactant | phenylacetylene | 0.0421 mole, 4.30 grams | C1(=CC=CC=C1)C#C | C8H6
reactant | triethylamine | 0.095 mole, 9.61 grams | C(C)N(CC)CC | C6H15N
reactant | triphenylphosphine | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
catalyst | palladium (II) acetate | 0.00014 mole, 0.032 gram | C(C)(=O)[O-].[Pd+2].C(C)(=O)[O-]
solvent | N,N-dimethylformamide | 174 milliliters | CN(C=O)C | C3H7NO
product | 1,3-bis[(4-phenylethynylphenyl)glyoxalyl]benzene | C1(=CC=CC=C1)C#CC1=CC=C(C=C1)C(C(=O)C1=CC(=CC=C1)C(C(=O)C1=CC=C(C=C1)C#CC1=CC=CC=C1)=O)=O | C38H22O4
